US07273878B2
To 10 ml of tetrahydrofuran were dissolved 0.25 g (1.5 mmol) of 6,6-difluoro-5-methyl-5-hexene-1-thiol and 0.39 g (2.0 mmol) of benzo[b]thiophene-2-carbonylchloride, followed by the drop-wise addition of 0.30 g (3.0 mmol) of triethylamine at room temperature, followed by stirring at the same temperature for 1 hour. The reaction liquid was then poured in water and extracted with diethyl ether. The organic layer was washed with water and a saturated saline solution in this order, followed by drying over anhydrous magnesium sulfate and concentration under reduced pressure. The residue was purified with silica gel column chromatography (diisopropyl ether:hexane=1:20) to obtain 0.39 g (yield: 80%) of S-(6,6-difluoro-5-methyl-5-hexenyl) benzo[b]thiophene-2-thiocarboxylate.

reactant | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
reactant | 6,6-difluoro-5-methyl-5-hexene-1-thiol | 1.5 mmol, 0.25 g | FC(=C(CCCCS)C)F | C7H12F2S
reactant | benzo[b]thiophene-2-carbonylchloride | 2.0 mmol, 0.39 g | S1C2=C(C=C1C(=O)Cl)C=CC=C2 | C9H5ClOS
reactant | triethylamine | 3.0 mmol, 0.30 g | C(C)N(CC)CC | C6H15N
solvent | water | O | H2O
product | S-(6,6-difluoro-5-methyl-5-hexenyl) benzo[b]thiophene-2-thiocarboxylate | 0.39 g, yield: 80% | S1C2=C(C=C1C(SCCCCC(=C(F)F)C)=O)C=CC=C2 | C16H16F2OS2
